US07435740B2
PREPARATION OF 1-PROPYL-3-BENZYL-8-BROMO-XANTHINE
A mixture of 1-propyl-3-benzyl xanthine (2.82 mmol), CH3CO2Na (2.82 mmol) and acetic acid (15 mL) was heated at 40-50° C. To the solution was added Br2 (2.82 mmol) and the reaction was stirred for further 30 minutes at 45° C. After cooling at room temperature the precipitate was collected by filtration and finally crystallized from EtOH. (White solid. Yield 85%).

reactant | 1-propyl-3-benzyl xanthine | 2.82 mmol | C(CC)N1C(=O)N(C=2N=CNC2C1=O)CC1=CC=CC=C1 | C15H16N4O2
reactant | CH3CO2Na | 2.82 mmol | CC(=O)O[Na]
reactant | Br2 | 2.82 mmol | BrBr | Br2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-PROPYL-3-BENZYL-8-BROMO-XANTHINE | Yield 85% | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)Br)CC1=CC=CC=C1 | C15H15BrN4O2
